US06410764B1
About 82 mL of BCl3 is added dropwise over 30 minutes to a stirred solution of dry pinacol in pentane (1.3 L) at −30° C. The reaction mixture is stirred at 20° C. for 1 hour. A solid byproduct, B2[(OCMe2)2]3 is removed by filtration. The remaining solution is distilled to give about 90 grams of 2-chloro-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | BCl3 | 82 mL | B(Cl)(Cl)Cl | BCl3
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
solvent | pentane | 1.3 L | CCCCC | C5H12
product | 2-chloro-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | about 90 grams | ClB1OC(C(O1)(C)C)(C)C | C6H12BClO2
